US08871758B2
N-tert-Butyloxycarbonylcyclopropanesulfonamide
1.46 g of cyclopropanesulfonamide were initially charged in a mixture of 30 ml of dichloromethane and 1.67 ml of triethylamine, and then 2.63 g of di-tert-butyl dicarbonate and 0.15 g of 4-dimethylaminopyridine were added and the mixture was stirred for 16 hours. The reaction solution was washed with 1 N aqueous hydrochloric acid, saturated aqueous sodium chloride solution and water, and the organic phase was dried over Na2SO4 and concentrated by rotary evaporation. This gave the product (2.66 g) with a molecular weight of 221.3 g/mol (C8H15NO4S); MS (EST): m/e=166 (M-tert-Butyl+H+).

reactant | cyclopropanesulfonamide | 1.46 g | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | di-tert-butyl dicarbonate | 2.63 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.67 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.15 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-tert-Butyloxycarbonylcyclopropanesulfonamide | 2.66 g | C(C)(C)(C)OC(=O)NS(=O)(=O)C1CC1 | C8H15NO4S
